US05886008
U. 5-Cyano-1-[3-(N-t-butoxycarbonylpiperid-4-yl)indol-5-yl]-1H-benzimidazole
5-(4-Cyano-2-nitrophenyl)amino-3-(N-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-1H-indole was used. Reduction was by catalytic hydrogenation, the cyclization reaction used ethoxymethylene malononitrile, and the cyclization reaction was heated for 48 hours. Chromatography using 10% ethyl acetate in methylene chloride afforded the title compound (10%) as a brown foam: Rf =0.2 in 10% ethyl acetate in methylene chloride; HRMS calculated for C26H27N5O2 441.2167, found 441.2169.

reactant | 5-(4-Cyano-2-nitrophenyl)amino-3-(N-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-1H-indole | C(#N)C1=CC(=C(C=C1)NC=1C=C2C(=CNC2=CC1)C1=CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C25H25N5O4
reactant | ethoxymethylene malononitrile | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Cyano-1-[3-(N-t-butoxycarbonylpiperid-4-yl)indol-5-yl]-1H-benzimidazole | 10% | C(#N)C1=CC2=C(N(C=N2)C=2C=C3C(=CNC3=CC2)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C26H27N5O2
